US08217066B2
Step 1: 1-(4′-{4-[(E)-1-Hydroxy-4-(4-trifluoromethyl-phenyl)-but-3-enyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester:
1-{4′-[4-(1-Hydroxy-but-3-enyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester (0.2518 g, 0.603 mmol), 1-iodo-4-trifluoromethyl-benzene (0.089 mL, 0.603 mmol), and cesium carbonate (0.207 g, 11.38 mmol) were dissolved in ACN (2.6 mL) and the solution was purged with bubbling N2 (g). Palladium(II) acetate (0.008 g, 0.0302 mmol) was added, the reaction vessel was sealed, and the reaction was heated to 85° C. overnight. After cooling, the reaction was submitted to standard aqueous workup to afford the title compound.

reactant | 1-{4′-[4-(1-Hydroxy-but-3-enyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | 0.603 mmol, 0.2518 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(CC=C)O | C26H27NO4
reactant | 1-iodo-4-trifluoromethyl-benzene | 0.603 mmol, 0.089 mL | IC1=CC=C(C=C1)C(F)(F)F | C7H4F3I
reactant | cesium carbonate | 11.38 mmol, 0.207 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | ACN | 2.6 mL | C(C)#N | C2H3N
catalyst | Palladium(II) acetate | 0.0302 mmol, 0.008 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(4′-{4-[(E)-1-Hydroxy-4-(4-trifluoromethyl-phenyl)-but-3-enyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(C\C=C\C1=CC=C(C=C1)C(F)(F)F)O | C33H30F3NO4
